US05106835
A 3.32 g sample of (S) 2-tert-butoxycarbonyl-amino-4-methyl-(R)1-(2-pyridinyl)pentan-1-ol, 0-acetate was dissolved in a mixture of 3 ml of methanol and 8 ml of 5N sodium hydroxide. The solution was stirred at 10° C. for 2 hours and then extracted with dichloromethane. The extract was dried (Na2SO4) and the solvent removed under vacuum to give 2.69 g of (S) 2-tert-butoxycarbonylamino-4-methyl-(R)1-(2-pyridinyl)-pentan-1-ol as an oil. To the preceding compound (2.69 g) was added 15 ml of 2N anhydrous hydrochloric acid in ethyl acetate. After stirring at room temperature, the solvent was removed under vacuum to give 2.46 g of (S) 2-amino-4-methyl-(R)1-(2-pyridinyl)-pentan-1-ol, dihydrochloride as tan crystals, mp 152°-154° C. To a solution of N-[(phenylmethoxy)carbonyl]-L-phenylalanyl-D,L-2-ethoxyglycine (2.0 g; 5 mmol) (Reference Example 12) and 5 mmol of 2-ethoxy- 1(2H)-quinolinecarboxylic acid ethyl ester in 50 ml of dichloromethane is added 5 mmol of (S)-2-amino-4-methyl-(R)1-(2-pyridinyl)pentan-1-ol, dihydrochlorde and 4 ml of triethylamine in 25 ml of dichloromethane. The mixture is stirred at room temperature for 20 hours and worked-up as described for Reference Example 8 to give N-[N-[(phenylmethoxy)carbonyl)-L-phenylalanyl-D,L-2-ethoxyglycyl]-(S)2-amino-4-methyl-(R)1-(2-pyridinyl pentan-1-ol as a solid.

reactant | 2-ethoxy- 1(2H)-quinolinecarboxylic acid ethyl ester | 5 mmol | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
reactant | (S)-2-amino-4-methyl-(R)1-(2-pyridinyl)pentan-1-ol, dihydrochlorde | 5 mmol | Cl.Cl.N[C@H]([C@@H](O)C1=NC=CC=C1)CC(C)C
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-pyridinyl pentan-1-ol | N1=C(C=CC=C1)C(CO)CCC | C10H15NO
